US07094938B1
The 4-bromo-2,7-di-t-butyl-fluorene is then reacted with benzene and AlCl3 to produce 4-bromo-fluorene as follows:

reactant | 4-bromo-2,7-di-t-butyl-fluorene | BrC1=CC(=CC=2CC3=CC(=CC=C3C12)C(C)(C)C)C(C)(C)C | C21H25Br
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-bromo-fluorene | BrC1=CC=CC=2CC3=CC=CC=C3C12 | C13H9Br
